US07741341B2
500 mg (2.50 mmol) 4-Amino-3-methyl-5-nitro-benzoic acid were dissolved in a mixture of 8 mL CH2Cl2 and 2 mL MeOH. At 0° C. 1.3 mL of a 2 M trimethylsilyldiazomethane-solution in hexane were added. After 1 h at 0° C. the reaction mixture was allowed to warm to room temperature. The next day further 1.3 mL of a 2 M trimethylsilyldiazomethane-solution in hexane were added. After stirring for 3 h at room temperature a solution of 0.22 mL acetic acid in 1.8 mL CH2Cl2 was added dropwise to destroy excess trimethylsilyldiazomethane. The reaction mixture was concentrated under reduced pressure. The residue was digerated with heptane and the crystalline material was filtered off to give pure 4-Amino-3-methyl-5-nitro-benzoic acid methyl ester. Yield: 496 mg MS (ES+): m/e=211.

reactant | 4-Amino-3-methyl-5-nitro-benzoic acid | 2.50 mmol, 500 mg | NC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])C | C8H8N2O4
reactant | trimethylsilyldiazomethane | 2 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | trimethylsilyldiazomethane | 2 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | acetic acid | 0.22 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
solvent | CH2Cl2 | 1.8 mL | C(Cl)Cl | CH2Cl2
product | 4-Amino-3-methyl-5-nitro-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)[N+](=O)[O-])N)C)=O | C9H10N2O4
